*$
*//-----------------------------------------------------------------------// 
*//   Part No.    : HHXC630ARA470MHA0G
*//   Date        : 2023/03/07
*//   Temperature : 20deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2023 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------// 

.SUBCKT HHXC630ARA470MHA0G_20deg-C 1 2

C1 4 2 3.80e-05
C2 5 2 4.07e-06
C3 6 2 1.82e-06
R1 3 4 1.36e-02
R2 4 5 6.96e-01
R3 5 6 1.38e+01
L1 1 3 3.70e-09

.ENDS
*$
